US08754226B2
Tert-butyl 4-((3R,4S)-4-(benzyloxy)-3-(methylsulfonyloxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate (620 mg, 1.32 mmol) was dissolved in dry DMSO (10 mL) and 4-bromo-2-fluorophenol (303 mg, 1.59 mmol) and K2CO3 (219 mg, 1.59 mmol) were added and the reaction heated to 70° C. under nitrogen overnight. The reaction was partitioned between water and EtOAc, extracted, dried over Na2SO4, filtered and concentrated. The residue was purified over silica gel (50 to 75% EtOAc in hexane) to afford tert-butyl 4-((3S,4S)-4-(benzyloxy)-3-(4-bromo-2-fluorophenoxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate (300 mg, 0.532 mmol, 40.2% yield) as a crude material, which was taken forward without further purification.

reactant | Tert-butyl 4-((3R,4S)-4-(benzyloxy)-3-(methylsulfonyloxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate | 1.32 mmol, 620 mg | C(C1=CC=CC=C1)O[C@@H]1[C@H](C(N(C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O)OS(=O)(=O)C | C22H32N2O7S
reactant | 4-bromo-2-fluorophenol | 1.59 mmol, 303 mg | BrC1=CC(=C(C=C1)O)F | C6H4BrFO
reactant | K2CO3 | 1.59 mmol, 219 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | tert-butyl 4-((3S,4S)-4-(benzyloxy)-3-(4-bromo-2-fluorophenoxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate | 0.532 mmol, 300 mg, 40.2% yield | C(C1=CC=CC=C1)O[C@@H]1[C@@H](C(N(C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O)OC1=C(C=C(C=C1)Br)F | C27H32BrFN2O5
